US08053440B2
A mixture of 2-amino-4,6-dimethoxy-benzamide (0.71 g, 3.71 mmol), 3,5-dimethyl-4-benzyloxy benzaldehyde (0.94 g, 3.90 mmol), sodium hydrogensulfite (0.68 g, 3.90 mmol) and p-toluenesulfonic acid (70 mg, 0.37 mmol) in N,N-dimethylacetamide (25 mL) was stirred at 150° C. for 16 h. The reaction mixture was cooled to room temperature and diluted with water (200 mL). The resulting solid was collected by filtration and washed with hexanes to afford 2-(4-benzyloxy-3,5-dimethyl-phenyl)-5,7-dimethoxy-3H-quinazolin-4-one as a white solid (1.2 g, 79%).

reactant | 2-amino-4,6-dimethoxy-benzamide | 3.71 mmol, 0.71 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 3,5-dimethyl-4-benzyloxy benzaldehyde | 3.90 mmol, 0.94 g | CC=1C=C(C=O)C=C(C1OCC1=CC=CC=C1)C | C16H16O2
reactant | sodium hydrogensulfite | 3.90 mmol, 0.68 g | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid | 0.37 mmol, 70 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | N,N-dimethylacetamide | 25 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 200 mL | O | H2O
product | 2-(4-benzyloxy-3,5-dimethyl-phenyl)-5,7-dimethoxy-3H-quinazolin-4-one | 1.2 g, 79% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C25H24N2O4
